US07915263B2
(4) Synthesis of (6-((1-tert-butyl-1H-pyrazol-5-yl)amino)pyrazin-2-yl)methanol
To a solution of 14.99 g of 6-((1-tert-butyl-1H-pyrazol-5-yl)amino)pyrazin-2-carbaldehyde in 235 ml of ethanol was added 2.31 g of sodium borohydride under cooling with ice, followed by stirring the reaction mixture for 1 hour. After slowly adding 61 ml of 1M hydrochloric acid to the reaction mixture under cooling with ice, ethanol was concentrated in vacuo. The obtained residue was diluted with water, and extracted with chloroform. The resulting chloroform solution was washed with brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The obtained residue was purified by a silica gel column chromatography (eluent: chloroform to chloroform/methanol=20/1) to give the title compound as a brown solid.

reactant | 6-((1-tert-butyl-1H-pyrazol-5-yl)amino)pyrazin-2-carbaldehyde | 14.99 g | C(C)(C)(C)N1N=CC=C1NC1=CN=CC(=N1)C=O | C12H15N5O
reactant | sodium borohydride | 2.31 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1M, 61 ml | Cl | ClH
solvent | ethanol | 235 ml | C(C)O | C2H6O
product | (6-((1-tert-butyl-1H-pyrazol-5-yl)amino)pyrazin-2-yl)methanol | C(C)(C)(C)N1N=CC=C1NC1=CN=CC(=N1)CO | C12H17N5O
